US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[2-hydroxy-1-(hydroxymethyl)-1-methylethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide
To a suspension of N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2,2,5-trimethyl-1,3-dioxan-5-yl)oxy]-4-pyrimidinyl]-1-azetidinesulfonamide (the product from step ii) (0.46 g) in DCM (15 mL) was added iron (III) chloride hexahydrate (0.85 g) and the mixture was stirred and ambient temperature for 30 min. A saturated solution of sodium hydrogencarbonate was added and then extracted with DCM (×4). The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography on silica gel using a MeOH/DCM (99:1 to 98:2 gradient) as eluent to give the title compound as a white foam Yield: 100 mg

reactant | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2,2,5-trimethyl-1,3-dioxan-5-yl)oxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC1(COC(OC1)(C)C)C | C21H26F2N4O5S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | iron (III) chloride hexahydrate | 0.85 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[2-hydroxy-1-(hydroxymethyl)-1-methylethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide | Yield: 100 mg | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC(CO)(C)CO | C18H22F2N4O5S2
